US06057369
(±)-(2R*,3S*)-3-(4-Methoxybenzenesulfonyl)-7-phenyl-2-(phenylsulfanylmethyl)heptanoic acid (0.42 g, 0.84 mmol) is dissolved in CH2Cl2 (3 mL) and cooled to 0° C. A solution of oxalyl chloride in CH2Cl2 (1.5 mL, 3 mmol) is added dropwise, the bath removed and the reaction allowed to warm and stir at 23° C. for 1 hour. The reaction is then concentrated in vacuo and azeotroped with CHCl3. The resulting oil is dissolved in CH2Cl2 (2 mL), cooled to 0° C. and O-(trimethylsilyl)hydroxylamine (0.3 mL, 2.6 mmol) is added dropwise. The bath is removed and the reaction is allowed to warm to 20° C. The reaction is then partitioned between CH2Cl2 (20 mL) and 1 N HCl (10 mL). The organic layer is then separated and washed with water (10 mL), dried (MgSO4) and concentrated in vacuo to yield (±)-(2R*,3S*)-3-(4-methoxybenzenesulfonyl)-7-phenyl-2-(phenylsulfanylmethyl)heptanoic acid hydroxyamide (0.37 g, 87%) The material obtained from the reaction is analytically pure: 1H NMR (300 MHz, CD3OD) δ 7.74-7.69 (m, 2H), 7.32-7.17 (m, 1H), 7.15-7.08 (m, 1H), 7.06-7.01 (m, 4H), 3.87 (s, 3H), 3.49 (dd, J=13.8, 5.3 Hz, 1H), 3.39 (q, J=5.3 Hz, 1H), 3.21 (dd, J=13.8, 9.8 Hz, 1H), 2.98-2.85 (m, 1H), 2.43 (t, J=7.3 Hz, 2H), 1.78-1.71 (m, 2H), 1.41-1.10 (m, 4H); MS (FAB) m/e 514 (M+H)+ ; Anal. (C27H31NO5S2) C, H, N.

reactant | (±)-(2R*,3S*)-3-(4-Methoxybenzenesulfonyl)-7-phenyl-2-(phenylsulfanylmethyl)heptanoic acid | 0.84 mmol, 0.42 g | COC1=CC=C(C=C1)S(=O)(=O)[C@H]([C@H](C(=O)O)CSC1=CC=CC=C1)CCCCC1=CC=CC=C1 | C27H30O5S2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-(trimethylsilyl)hydroxylamine | 2.6 mmol, 0.3 mL | C[Si](ON)(C)C | C3H11NOSi
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mmol, 1.5 mL | C(Cl)Cl | CH2Cl2
product | (±)-(2R*,3S*)-3-(4-methoxybenzenesulfonyl)-7-phenyl-2-(phenylsulfanylmethyl)heptanoic acid hydroxyamide | 0.37 g, 87% | ONC([C@@H]([C@H](CCCCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)CSC1=CC=CC=C1)=O | C27H31NO5S2
